US07807672B2
Preparation of 4-pyrimidin-2-ylethynyl-piperidine-1-carboxylic acid tert-butyl ester
To a suspension of 2-bromopyrimidine (175 mg, 1.1 mmols), dichlorobis(triphenylphosphine)palladium(II) (35 mg, 0.05 mmols) and Cul (10 mg, 0.05 mmols) was added a solution of 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester (209 mg, 1 mmol). The mixture was stirred overnight, filtered through Celite, concentrated. The residue was partitioned between ethyl acetate and water, organic layer was isolated, dried (MgSO4), and concentrated. The residue was chromatographed on silica gel eluting with ethyl acetate in hexanes (1:1) to give un-reacted 2-bromopyrimidine (130 mg), then the title compound (23 mg). LCMS m/e (288, M+H).

reactant | 2-bromopyrimidine | 1.1 mmols, 175 mg | BrC1=NC=CC=N1 | C4H3BrN2
reactant | 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester | 1 mmol, 209 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C#C | C12H19NO2
reactant | 2-bromopyrimidine | 130 mg | BrC1=NC=CC=N1 | C4H3BrN2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.05 mmols, 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-pyrimidin-2-ylethynyl-piperidine-1-carboxylic acid tert-butyl ester | 23 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C#CC1=NC=CC=N1 | C16H21N3O2
